US07446113B2
Step 2) 2-Chloro-thiazole-5-sulfonic acid amide
Prepared by general procedure III from 2-Chloro-thiazole-5-sulfonyl chloride (1.1 g, 5 mmol) and NH40H (0.42 mL, 6 mmol) with Et3N (0.77 mL, 6 mmol to give the title compound as a light-brown solid (610 mg, 61%). MS (ISN) 197[(M−H)−].

reactant | 2-Chloro-thiazole-5-sulfonyl chloride | 5 mmol, 1.1 g | ClC=1SC(=CN1)S(=O)(=O)Cl | C3HCl2NO2S2
reactant | Et3N | CCN(CC)CC | C6H15N
product | 2-Chloro-thiazole-5-sulfonic acid amide | 610 mg, 61% | ClC=1SC(=CN1)S(=O)(=O)N | C3H3ClN2O2S2
